US07091380B2
To 500 mL of THF was added water (18.4 mL, 1.02 mol), potassium carbonate (70.5 g, 0.510 mol), methyl 2-iodobenzoate (53.5 g, 0.204 mol), 4-cyano-phenylboronic acid (30.0 g, 0.204 mol) and bis-(tri-o-tolylphosphine) palladium (II) chloride (1.65 g, 2.04 mmol). This mixture was heated to reflux for 3.5 hours and then cooled to ambient temperature for continued stirring overnight. The solvent was then removed under reduced pressure prior to dilution with EtOAc/water. The organic layer was extracted with additional EtOAc. The combined organics were washed with water, then brine. The organics were then dried over sodium sulfate, filtered, and then concentrated to obtain the crude product. This crude product was passed through a silica pad, eluting with 8:1 heptane:EtOAc to get 41.6 grams of methyl 4′-cyano-1,1′-biphenyl-2-carboxylate.

reactant | water | 1.02 mol, 18.4 mL | O | H2O
reactant | potassium carbonate | 0.510 mol, 70.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-iodobenzoate | 0.204 mol, 53.5 g | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
reactant | 4-cyano-phenylboronic acid | 0.204 mol, 30.0 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
catalyst | bis-(tri-o-tolylphosphine) palladium (II) chloride | 2.04 mmol, 1.65 g | [Pd](Cl)Cl.C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C.C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | methyl 4′-cyano-1,1′-biphenyl-2-carboxylate | 41.6 grams | C(#N)C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H11NO2
